US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-2-(4-amino-3,5-dichlorophenylamino)-ethylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane and 2-(4-amino-3,5-dichlorophenylamino)-ethylamine analogously to Example 1.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 2-(4-amino-3,5-dichlorophenylamino)-ethylamine | NC1=C(C=C(C=C1Cl)NCCN)Cl | C8H11Cl2N3
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-2-(4-amino-3,5-dichlorophenylamino)-ethylamine | COC1=CC2=C(CC(N(CC2)CCCNCCNC2=CC(=C(C(=C2)Cl)N)Cl)=O)C=C1OC | C23H30Cl2N4O3
